US08404869B2
3-Hydroxy-5,6,7,8-tetrahydro-1,4-phenanthrenequinone (8.4 g, 37 mM) was dissolved in 70 ml of DMSO, and 560 g (75 mM) of LiH was gradually added thereto. The reaction solution was stirred, and after confirming no further production of hydrogen, was additionally stirred for another 30 min. Then, 12.0 g (80 mM) of prenyl bromide (1-bromo-3-methyl-2-butene) and 3.35 g (0.025 M) of LiI were gradually added thereto. The reaction solution was heated to 45° C. and then stirred vigorously for 12 hours at that temperature. The reaction solution was cooled below 10° C., and 100 ml of cold water was first added. Thereafter, 1N HCl was gradually added to maintain the resulting solution at an acidic pH>3. 200 ml of EtOAc was added to the reaction mixture which was then shaken vigorously thereafter, an organic layer was separated. The organic layer was washed with 100 ml of 5% NaHCO3, and was concentrated. The resulting concentrates purified by chromatography on silica gel to give 1.81 g (4.9 mM) of 2-Prenyl-3-prenyloxy-5,6,7,8-tetrahydro-1,4-phenanthrenequinone. The resulting was mixed with 5 ml of sulfuric acid, and the mixture was vigorously stirred at room temperature for 10 min and 20 g of ice was added thereto to complete the reaction. 60 ml of CH2Cl2 was added to the reaction materials which were then shaken vigorously. Thereafter, a CH2Cl2 layer was separated and washed with 5% NaHCO3. An aqueous layer was extracted once again using 10 ml of CH2Cl2, washed with 5% NaHCO3 and combined with the previously extracted organic layer. The organic layer was concentrated MgSO4 and the resulting concentrates purified by chromatography on silica gel to give 0.83 g (2.8 mM) of Compound 6.

reactant | 3-Hydroxy-5,6,7,8-tetrahydro-1,4-phenanthrenequinone | 37 mM, 8.4 g | OC1=CC(C2=CC=C3CCCCC3=C2C1=O)=O | C14H12O3
reactant | LiH | 75 mM, 560 g | [H-].[Li+]
reactant | hydrogen | [H][H] | H2
reactant | prenyl bromide | 80 mM, 12.0 g | C(C=C(C)C)Br | C5H9Br
reactant | LiI | 0.025 M, 3.35 g | [Li+].[I-]
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | water | 100 ml | O | H2O
product | 2-Prenyl-3-prenyloxy-5,6,7,8-tetrahydro-1,4-phenanthrenequinone | 4.9 mM, 1.81 g | C(C=C(C)C)C=1C(C2=CC=C3CCCCC3=C2C(C1OCC=C(C)C)=O)=O | C24H28O3
